US07635684B2
To a solution of 3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-4-{[4-(3-hydroxypropoxy)-2-methylphenyl]-methyl}-5-isopropyl-1H-pyrazole (0.29 g) in dichloromethane (5 mL) were added triethylamine (0.08 mL) and methanesulfonyl chloride (0.04 mL), and the mixture was stirred at room temperature overnight. The reaction mixture was poured into 0.5 mol/L hydrochloric acid, and the resulting mixture was extracted with ethyl acetate. The organic layer was washed with water, and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure to give 3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-5-isopropyl-4-({4-[3-(methanesulfonyloxy)propoxy]-2-methylphenyl}methyl)-1H-pyrazole. This material was dissolved in N,N-dimethylformamide (3 mL). To the solution was added 1-(2-hydroxyethyl)piperazine (0.13 g), and the mixture was stirred at 60° C. for 9 hours. The reaction mixture was poured into water, and the resulting mixture was extracted with ethyl acetate. The organic layer was washed with water twice, and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: ethyl acetate-dichloromethane/methanol=10/1-5/1) to give the title compound (91 mg).

reactant | 3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-4-{[4-(3-hydroxypropoxy)-2-methylphenyl]-methyl}-5-isopropyl-1H-pyrazole | 0.29 g | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)OC1=NNC(=C1CC1=C(C=C(C=C1)OCCCO)C)C(C)C | C31H42N2O12
reactant | triethylamine | 0.08 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.04 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | hydrochloric acid | 0.5 mol/L | Cl | ClH
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-5-isopropyl-4-({4-[3-(methanesulfonyloxy)propoxy]-2-methylphenyl}methyl)-1H-pyrazole | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)OC1=NNC(=C1CC1=C(C=C(C=C1)OCCCOS(=O)(=O)C)C)C(C)C | C32H44N2O14S
